US07566735B2
4-iodo-N-(2-methylpropyl)benzenesulfonamide
A solution of (2-methylpropyl)amine (121 mg, 1.65 mmol) and triethylamine (0.35 ml, 2.47 mmol) in DCM (10 ml) was treated with 4-iodobenzenesulfonyl chloride (500 mg, 1.65 mmol) by dropwise addition over 10 minutes with stirring under argon. The reaction mixture was stirred at room temperature for 16 hr. Then the reaction mixture was washed with water (10 ml), separated the organic layer, dried with sodium sulphate. Solvent was removed by rotary evaporation to give the title compound as a white solid (517 mg, 92%).

reactant | (2-methylpropyl)amine | 1.65 mmol, 121 mg | CC(CN)C | C4H11N
reactant | triethylamine | 2.47 mmol, 0.35 ml | C(C)N(CC)CC | C6H15N
reactant | 4-iodobenzenesulfonyl chloride | 1.65 mmol, 500 mg | IC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClIO2S
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-iodo-N-(2-methylpropyl)benzenesulfonamide | 517 mg, 92% | IC1=CC=C(C=C1)S(=O)(=O)NCC(C)C | C10H14INO2S
